US08372986B2
1-adamantyl-5-phenyl-1H-1,2,3-triazole (10a)
1-Azidoadamantane (177 mg, 1 mmol), phenylacetylene (113 mg, 1.1 mmol), Cp*RuCl(PPh3)2 (8 mg, 0.01 mmol, 1 mol %). Solvent: THF, 10 mL, 60° C., 12 hours. Product obtained as off-white powder in 52% yield (145 mg). ESI-MS: m/z 280, [M+H].

reactant | 1-Azidoadamantane | 1 mmol, 177 mg | N(=[N+]=[N-])C12CC3CC(CC(C1)C3)C2 | C10H15N3
reactant | phenylacetylene | 1.1 mmol, 113 mg | C1(=CC=CC=C1)C#C | C8H6
catalyst | Cp*RuCl(PPh3)2 | 0.01 mmol, 8 mg | C[C-]1C(=C(C(=C1C)C)C)C.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Ru+]
solvent | THF | C1CCOC1 | C4H8O
product | 1-adamantyl-5-phenyl-1H-1,2,3-triazole | 52% yield | C12(CC3CC(CC(C1)C3)C2)N2N=NC=C2C2=CC=CC=C2 | C18H21N3
